US04728662
A mixture of 25 g of ethyl{[7-chloro-3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, Example 14, and 20 ml of 50% sodium hydroxide in 400 ml of ethyl alcohol is refluxed for 1 hour The hot mixture is diluted with 300 ml of water and then acidified with concentrated hydrochloric acid. The acidified mixture is stirred for 30 minutes and then filtered and the filter cake is recrystallized from a dimethylformamide-ethylacetate mixture to yield the product {[7-chloro-3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid having a melting point of 254° to 257° C.

reactant | ethyl{[7-chloro-3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | 25 g | C(C)OC(COC1=C(C2=C(C(=NO2)C2=CC=C(C=C2)Cl)C=C1)Cl)=O | C17H13Cl2NO4
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 400 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | {[7-chloro-3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=CC=C(C=C2)Cl)OCC(=O)O | C15H9Cl2NO4
